Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am having delusions of some type of game like red vs. blue.  
I unexpectedly disappeared and no one could find me."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per family, pt. was fine prior to ___ of this year, as far as 
they could tell.  In ___, pt. began complaining of a "sweet 
smell" and vigorously washed her apt. with bleach, as well as 
washing her hands and body excessively.  Family brought her into 
the ___ today because, in addition to +olfactory hallucinations, 
she is delusional about being in a relationship with a former
boyfriend and coworker, ___. Parents asked pt. to move in with 
them last weekend, due to concern about her and her ___ y/o 
daughter.  Father states that she is always punctual returning 
from work and on ___, she disappeared.  She explains that she 
was looking for ___, who she used to work with and dated for a 
few months.  She had had no contact with him since ___ and 
impulsively took the train to ___ because of the "blue and 
red game".  She interpreted
people wearing blue and red as meaning ___ would be in ___. 
Once there, she wandered around, guided by blue and red, in 
search of ___.

Family became concerned and it took several hours to locate her. 
She again was acting bizarrely last evening and attempted to 
leave the house this morning, all in the pursuit of ___. 
Additionally, she voices concern that people at work are talking 
about her.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations:None.
Current treaters and treatment:None.
Medication and ECT trials:none.
Self-injury:none
Harm to others:none
Access to weapons:none

PAST MEDICAL HISTORY: PCP: ___ at ___, last saw in
___.
MEDICATIONS including vitamins, herbs, supplements, OTC:implanon
(birth control).
ALLERGIES: none.
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
maternal and paternal great aunts with schizophrenia
 
Physical Exam:
ADMISSION EXAM:
VS:  98.2, 81, 118/79, 16, 100% RA, 127lbs, 63"
General- no acute distress
Skin- warm, dry, clear
HEENT- oropharynx normal
Neck and Back- supple
Lungs- ctab
CV- rrr, nl s1/s2, no mrg
Abdomen: soft, nondistended, no masses
Extremities- warm
Neuro- ___ intact, strength full, reflexes normal, no 
cerebellar
signs, sensation to light touch normal, gait normal

Neuropsychiatric Examination:
  *Appearance: sitting comfortably on exam table, appropriately
groomed, in hospital gown
  Behavior: mostly cooperative, somewhat guarded
  *Mood and Affect: "alright", restricted, tearful
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear, intact 
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): -SI/HI/AVH/paranoia
  *Judgment and Insight: poor/poor
  Cognition:
    *Attention, *orientation, and executive function: intact
    *Memory: ___ immediate, ___ delayed, ___ categories
    *Fund of knowledge: good
    Calculations: intact
    Abstraction: apple/oranges = seeds, round, trees
    *Speech: normal
    *Language: fluent

DISCHARGE EXAM:
VS: T: 97.7, BP: 123/76, HR: 96, R: 16, O2 sat: 100%

Neurological:
Station and gait: stable, normal arm swing
Tone and strength: not formally assessed; grossly normal
Cranial nerves: CN2-12 grossly intact
Abnormal movements: none noted

Psychiatric:
Appearance: ___ female dressed in own clothes, 
clean
and well-groomed.
Behavior: Cooperative, pleasant, friendly. Good eye contact.
Mood and Affect: "Really great," affect congruent, euthymic, 
appropriately bright, optimistic.
Thought process: Logical, goal-oriented. No flight of ideas, no
LOA, no tangentiality.
Thought Content: Looking forward to going home. No AH/VH/OH, no 
IOR or paranoia. No SI/HI.
Judgment and Insight: Good/fair

Cognition:
Attention: Attentive to examiners
Orientation: Oriented to self and situation
Memory: Intact to history
Fund of knowledge: Good
Speech: Normal pace, rhythm, tone. Volume soft.
Language: Fluent ___
 
Pertinent Results:
___ 05:55AM BLOOD WBC-7.0 RBC-4.69 Hgb-13.4 Hct-40.9 MCV-87 
MCH-28.6 MCHC-32.7 RDW-14.6 Plt ___
___ 05:55AM BLOOD ALT-11 AST-16 LD(LDH)-170 AlkPhos-36 
TotBili-0.3
___ 05:55AM BLOOD ___
___ 05:55AM BLOOD Albumin-4.___) Global Assessment:
Ms. ___ is a ___ F with no known formal past psychiatric history, 
one psychiatric hospitalization ___ for SA by cutting 
wrists, presenting at the urging of her parents for new onset 
visual, olfactory, and thought disturbances since ___, 
with suicidal ideation and plan to cut her wrists. Presentation 
most consistent with major depressive disorder with psychotic 
features, however differential diagnosis also includes 
schizoaffective disorder and delusional disorder. She responded 
well to being placed on Risperdal, with resolution of psychotic 
symptoms and improvement in mood. She was discharged with new 
outpatient treaters and a partial program.

2) Psychiatric:
#Diagnoses/Differential:
-Major Depressive Disorder with psychotic features
-r/o schizoaffective disorder
-r/o delusional disorder

The patient initially presented with multiple new onset 
psychotic features, including olfactory hallucinations 
(sweet/sour/peppery smells in her apartment), ideas of reference 
(that she was receiving messages from her ex-boyfriend through 
the radio, news, and people wearing red or blue, interpreting 
these as ways to "play the game" to find him), and thought 
insertion, mostly in the context of symptoms of depression and 
anxiety surrounding her recent breakup with her boyfriend. Also 
with suicidal ideation. This was the patient's first psychotic 
break, and in light of her olfactory hallucinations, an EEG was 
performed to r/o temporal lobe epilepsy, and was negative. Other 
organic causes of psychosis essentially ruled out with negative 
CBC, LFTs, RPR, ___, and negative recent HIV test. Thus 
presentation was thought to be most consistent with major 
depressive disorder w/ psychotic features (vs. schizoaffective 
disorder vs. delusional disorder). She was placed on Risperdal 
in the ___, with almost immediate effect, and uptitrated to final 
dose of 4 mg qHS. She responded very well, with complete 
dissolution of her delusions, consistently denying any AH/VH/OH 
or IOR since admission to the unit. Endorsed SI in the ___, 
however on the unit she has no more SI. She refused initiation 
of Celexa in conjunction with the Risperdal, stating she did not 
feel depressed and would only like to take the Risperdal at this 
time, but will reconsider as outpatient. She expressed a 
commitment to medication compliance as well as following up with 
her outpatient treaters.

Patient was set up with new outpatient treaters, and is 
scheduled to see her therapist on ___, who will then refer to a 
psychiatrist. She was also set up with a Partial program at the 
___ starting with the beginning of her insurance. Group 
therapy programs were also recommended to her.

# Substance Use: No acute or chronic issues.

3) Medical:
The following acute medical problems were addressed during this 
hospitalization:
# Elevated WBC count with left shift: Initially presented with 
an elevated WBC count with left shift, however patient had 
negative ROS, UA was negative. Repeat CBC was negative, thus 
likely was due to a stress reaction.

# Implanon removal: patient has stated she would like her 
Implanon removed, mainly because she believes it to have incited 
her psychotic symptoms. Literature search was negative for 
connection between Implanon or active hormonal component and 
psychosis. Reinforced with the patient the lack of known 
connection between Implanon and psychosis, and suggested that 
procedure itself could have played role initiating psychotic 
symptoms. She was instructed to follow up with her OB/GYN (with 
whom she has an upcoming appointment) to have the Implanon 
removed if she wishes.

Patient was also instructed to make an appointment with her PCP 
for ___.

4) Legal/Safety:
CV signed and accepted on admission, and pt remained on such 
throughout the hospitalization.

Pt was calm and controlled on the unit. There were no 
safety/behavioral issues. She was kept on standard Q15 minute 
checks and unit restriction.

5) Social/Milieu:
Pt was encouraged to participate in unit’s groups/milieu/therapy 
opportunities. She consistently attended groups and socialized 
with peers, stating that she found great benefit in this, and 
enjoyed participating in the milieu. Family meeting was held 
with patient's father and cousin, addressed medication 
questions, relationship between Implanon and psychosis, and 
aftercare plan. Family was quite supportive, warm, and 
understanding about the patient's condition and would like her 
to continue with medications as well as with outpatient 
psychiatrist/therapist.

6) Disposition:
Patient was discharged to her parents' house, with plans to 
pursue nursing school again. She was optimistic about her 
future, and expressed commitment to medication compliance and 
following up with her new outpatient treaters. Her family was 
very supportive about the discharge plan. She was also very much 
looking forward to seeing her daughter, who will be living with 
her and her parents now as well.

Follow up was scheduled with therapist, partial program, PCP, 
and OB/GYN.

7) Risk Assessment:
At this point in time, patient is euthymic and no longer having 
self-injurious thoughts and not at acutely elevated risk of harm 
to self/others or inadequate self-care, and therefore no longer 
in need of inpatient treatment.

Static risk factors include previous suicidal attempt, family 
history of schizophrenia. Modifiable risk factors include 
untreated psychiatric illness which is now being treated with 
medication, and set up with outpatient providers. Protective 
factors include willingness to seek help, involved and 
supportive family, child with whom patient has a good 
relationship, ability to hold steady job, goals for going back 
to nursing school.
 
8) Prognosis:
Patient has a very good prognosis, primarily due to her 
willingness to adhere to her treatment plan, her supportive 
family, and her high level of functioning prior to admission. 
However further exploration of her depression and suicidality in 
the past, about which she was fairly guarded on this admission, 
will be beneficial to the patient to further explore her coping 
mechanisms and thought patterns.
 
Medications on Admission:
None.
 
Discharge Medications:
1. RISperidone 4 mg PO HS 
RX *risperidone 4 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder with psychotic features

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

DISCHARGE EXAM:
VS: T: 97.7, BP: 123/76, HR: 96, R: 16, O2 sat: 100%  

Neurological:
Station and gait: stable, normal arm swing
Tone and strength: not formally assessed; grossly normal
Cranial nerves: CN2-12 grossly intact
Abnormal movements: none noted

Psychiatric:
Appearance: ___ female dressed in own clothes, 
clean
and well-groomed.
Behavior: Cooperative, pleasant, friendly. Good eye contact.
Mood and Affect: 'Really great,' affect congruent, euthymic, 
appropriately bright, optimistic.
Thought process: Logical, goal-oriented. No flight of ideas, no
LOA, no tangentiality.
Thought Content: Looking forward to going home. No AH/VH/OH, no 
IOR or paranoia. No SI/HI.
Judgment and Insight: Good/fair

Cognition:
Attention: Attentive to examiners
Orientation: Oriented to self and situation
Memory: Intact to history
Fund of knowledge: Good
Speech: Normal pace, rhythm, tone. Volume soft.
Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___